US06949579B2
N-[6-(3-pyridyl)-1H-indazol-3-yl]butanamide
13.3 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 900 mg of N-[6-(3-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 20 cm3 of tetrahydrofuran. The reaction medium is heated at about 66° C. for 21 hours. The heating is then stopped and 100 cm3 of ethyl acetate are added. This mixture is washed with 50 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 2×50 cm3 of distilled water and 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2 cm), eluting with ethyl acetate and collecting 25 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 50° C.), 380 mg of N-[6-(3-pyridyl)-1H-indazol-3-yl]butanamide are thus obtained in the form of a white product melting at 205° C.

reactant | tetrabutylammonium fluoride | 13.3 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-(3-pyridyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 900 mg | N1=CC(=CC=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C22H30N4O2Si
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | N-[6-(3-pyridyl)-1H-indazol-3-yl]butanamide | N1=CC(=CC=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C16H16N4O
